US05648315
A solution of 2.09 g (6.1 mmol) of N-tert-butyl-5-acetamidomethyl-2-methoxycarbonylbenzenesulfonamide in 25 ml of trifluoroacetic acid is stirred at room temperature for 14 h and then evaporated to dryness. Crystallization of the residue from ethyl acetate yields 1.33 g (76%) of 5-acetamidomethyl-2-methoxycarbonylbenzenesulfonamide of mp. 173°-175° C.

reactant | N-tert-butyl-5-acetamidomethyl-2-methoxycarbonylbenzenesulfonamide | 6.1 mmol, 2.09 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC(=C1)CNC(C)=O)C(=O)OC | C15H22N2O5S
solvent | trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-acetamidomethyl-2-methoxycarbonylbenzenesulfonamide | 1.33 g, 76% | C(C)(=O)NCC=1C=CC(=C(C1)S(=O)(=O)N)C(=O)OC | C11H14N2O5S
